US05204357
c) Boc-His(DNP)-1(S)-cyclohexylmethyl-2(S)-hydroxy-5-(2-pyridyl)-pentylamide
550 μl of pivaloyl chloride are added dropwise, at -5° C., to 1.9 g of Boc-His(DNP)-OH, 360 μl of pyridine and 620 μl of N-ethylpiperidine in 50 ml of CH2Cl2. After 10 minutes at -5° C., the mixture is stirred at +10° C. for 10 minutes. It is again cooled to -5° C. and then 1.3 g of 1(S)-cyclohexylmethyl-2(S)-hydroxy-5-(2-pyridyl)-pentylamine (prepared from 1.7 g of 3-Boc-4(S)-cyclohexylmethyl-2,2-dimethyl-5-(3-(2-pyridyl)propyl)oxazolidine by the process described under b) and subsequent liberation with Na2CO3) in 20 ml of CH2Cl2 are added. After 1 hour at -5° C., the mixture is left to stand at room temperature for 16 hours. 50 ml of saturated Na2CO3 solution are added, and the mixture is extracted 3 times with EA. The combined organic extracts are dried over Na2SO4 and concentrated. Chromatography on silica gel (EA/MeOH 10:1) yields the title compound.

reactant | pivaloyl chloride | 550 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | Boc-His(DNP)-OH | 1.9 g | N([C@@H](CC1=CN(C=N1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)C(=O)O)C(=O)OC(C)(C)C | C17H19N5O8
reactant | N-ethylpiperidine | 620 μl | C(C)N1CCCCC1 | C7H15N
reactant | 1(S)-cyclohexylmethyl-2(S)-hydroxy-5-(2-pyridyl)-pentylamine | 1.3 g | C1(CCCCC1)C[C@@H]([C@H](CCCC1=NC=CC=C1)O)N | C17H28N2O
reactant | 3-Boc-4(S)-cyclohexylmethyl-2,2-dimethyl-5-(3-(2-pyridyl)propyl)oxazolidine | 1.7 g | C(=O)(OC(C)(C)C)N1C(OC([C@@H]1CC1CCCCC1)CCCC1=NC=CC=C1)(C)C | C25H40N2O3
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Na2CO3 | 50 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 360 μl | N1=CC=CC=C1 | C5H5N
product | Boc-His(DNP) 1(S)-cyclohexylmethyl-2(S)-hydroxy-5-(2-pyridyl)-pentylamide | N([C@@H](CC1=CN(C=N1)C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)C(=O)O)C(=O)OC(C)(C)C.C1(CCCCC1)C[C@@H]([C@H](CCCC1=NC=CC=C1)O)[NH-] | InChI=1S/C17H19N5O8.C17H27N2O/c1-17(2,3)30-16(25)19-12(15(23)24)6-10-8-20(9-18-10)13-5-4-11(21(26)27)7-14(13)22(28)29;18-16(13-14-7-2-1-3-8-14)17(20)11-6-10-15-9-4-5-12-19-15/h4-5,7-9,12H,6H2,1-3H3,(H,19,25)(H,23,24);4-5,9,12,14,16-18,20H,1-3,6-8,10-11,13H2/q;-1/t12-;16-,17-/m00/s1
